US03974168
A solution of 7.8 g of potassium cyanide in 20 ml of water is added dropwise to a mixture of 23 g of 7-chloromethyl-5H-[1]benzopyrano[2,3-b]-pyridine and 200 ml of dimethylformamide, and the whole mixture is allowed to stand at 55°-60°C for 2 hours. The reaction mixture is poured into a large amount of water, and the crystalline precipitate is filtered off, washed with water and recrystallized from aqueous dioxane to give 20 g of 5H-[1]-benzopyrano[2,3-b]pyridin-7-yl-acetonitrile melting at 166°-167°C.

reactant | potassium cyanide | 7.8 g | [C-]#N.[K+]
reactant | 7-chloromethyl-5H-[1]benzopyrano[2,3-b]-pyridine | 23 g | ClCC=1C=CC2=C(CC=3C(=NC=CC3)O2)C1 | C13H10ClNO
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
product | 5H-[1]-benzopyrano[2,3-b]pyridin-7-yl-acetonitrile | 20 g | N1=C2C(=CC=C1)CC1=C(O2)C=CC(=C1)CC#N | C14H10N2O
